US06392104B1
In an atmosphere of nitrogen, 11 mmole of acetyl chloride and 12 mmole of triethylamine were dissolved in 2 mL of THF. To the resultant mixture, 10 mmole of a solution of 1-amino-3-adamantanol in DMF (10 mL) was added dropwise over 30 minutes at 40° C. The mixture was stirred for another 3 hours at 40° C. As a result, the conversion of 1-amino-3-adamantanol was 99%, and 1-acetylamino-3-adamantanol (yield 95%) was formed.

reactant | acetyl chloride | 11 mmole | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 12 mmole | C(C)N(CC)CC | C6H15N
reactant | 1-amino-3-adamantanol | NC12CC3(CC(CC(C1)C3)C2)O | C10H17NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-acetylamino-3-adamantanol | yield 95% | C(C)(=O)NC12CC3(CC(CC(C1)C3)C2)O | C12H19NO2
